US06566366B1
a) 1,3-Dimethyl-2-(2-thienyl)-imidazolidine
23.5 g (267 mmol) of N,N′-dimethylethylenediamine were dissolved in 300 ml of toluene and treated with 29.8 g (266 mmol) of thiophene-2-carbaldehyde. The clear mixture was refluxed for 4 hours using a Dean-Stark trap. After that time 4.9 ml of water had separated in the trap. After cooling, the solution was filtered and evaporated. The oily residue was destined in vacuo. Yield: 45 g.

reactant | N,N′-dimethylethylenediamine | 267 mmol, 23.5 g | CNCCNC | C4H12N2
reactant | thiophene-2-carbaldehyde | 266 mmol, 29.8 g | S1C(=CC=C1)C=O | C5H4OS
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-Dimethyl-2-(2-thienyl)-imidazolidine | CN1C(N(CC1)C)C=1SC=CC1 | C9H14N2S
